US09034900B2
Step 1: 2-chloro-7-methoxyfuro[2,3-c]pyridine
A 0.13 M solution of 7-methoxyfuro[2,3-c]pyridine (250 mg, 1.7 mmol) in THF stirred at −78° C. under an atmosphere of nitrogen was treated with n-BuLi (1.6M in hexanes, 450 uL, 5.2 mmol) dropwise over 30 sec. The mixture was warmed gradually to −15° C. over a period of 7 to 10 min. After 1 h at −15° C., the mixture was cooled to −65° C. and was treated with a 0.26 M solution of hexachloroethane (473 mg, 2 mmol) in THF by dropwise addition over 3 min. After stirring at −65° C. for 15 min, the mixture was allowed to gradually warm to rt. After the mixture was allowed to stir overnight, it was quenched with water (5 mL) and extracted with EtOAc (3×15 ml). The combined organic layers were washed brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using a gradient of EtOAc (5 to 30%) in hexanes to afford the title compound (266 mg, 87%) as an amber oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.99-4.08 (m, 3H) 7.13 (s, 1H) 7.25 (d, J=5.31 Hz, 1H) 7.95 (d, J=5.31 Hz, 1H). LCMS (M+H)+=184.

reactant | 7-methoxyfuro[2,3-c]pyridine | 1.7 mmol, 250 mg | COC=1N=CC=C2C1OC=C2 | C8H7NO2
reactant | n-BuLi | 5.2 mmol, 1.6M, 450 uL | [Li]CCCC
reactant | hexachloroethane | 2 mmol, 473 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-7-methoxyfuro[2,3-c]pyridine | 266 mg, 87% | ClC1=CC=2C(=C(N=CC2)OC)O1 | C8H6ClNO2
